US20010047099A1
D. Preparation of 4-Amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid (Compound 47)
To Methyl 4-amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid (0.0.720 g, 2.07 mmol) in 20 mL of methanol was added lN NaOH (2.07 mL) and stirred at RT for 1 hr. The reaction mixture was concentrated to dryness in vacuo and 100 mL each of diethyl ether and H2O added. The aqueous layer acidified with 1N HCl until pH=2. methylene chloride was added and the aqueous phase was extracted with additional CH2Cl2 (2×100 mL). The combined extracts were dried (MgSO4) and concentrated to dryness in vacuo to give 0.390 g of white solid 4-amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid (Compound 47); mp 196° C.

reactant | Methyl 4-amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid | 2.07 mmol | CC=1C(=C(C(=NC1OC1=CC(=CC(=C1)Cl)Cl)C(=O)O)Cl)N | C13H9Cl3N2O3
reactant | NaOH | 2.07 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-Amino-3-chloro-6-(3,5-dichlorophenoxy)pyridine-2-carboxylic acid | 0.390 g | NC1=C(C(=NC(=C1)OC1=CC(=CC(=C1)Cl)Cl)C(=O)O)Cl | C12H7Cl3N2O3
